US08231942B2
[Step 2] Synthesis of 9-[3-(10-phenyl-9-anthryl)phenyl]-9H-carbazole (abbr. mCzPA)
Into a 200 mL three-neck flask were put 1.3 g (3.3 mmol) of 9-(3-bromophenyl)-10-phenylanthracene (abbr: mPA), 0.55 g (3.3 mmol) of 9H-carbazole, and 0.63 g (6.6 mmol) of sodium tert-butoxide. After the air in the flask was replaced with nitrogen, 40 mL of toluene and 0.40 mL of tri(tert-butyl)phosphine (10 wt % hexane solution) were added to this mixture. This mixture was stirred to be degassed while the pressure was reduced. After the degassing, 95 mg (0.17 mmol) of bis(dibenzylideneacetone)palladium(0) was added to this mixture. This mixture was stirred under a nitrogen stream at 110° C. for 8 hours. After the stirring, this mixture was subjected to suction filtration through Celite (Wako Pure Chemical Industries, Ltd., catalog No.: 531-16855), alumina, and Florisil (Wako Pure Chemical Industries, Ltd., catalog No.: 540-00135). The obtained filtrate was concentrated to give a light-yellow oily substance. The obtained oily substance was recrystallized from toluene/hexane to give 1.2 g of a light-yellow solid, which was the object of the synthesis, in a yield of 71%.

reactant | 9-(3-bromophenyl)-10-phenylanthracene | 3.3 mmol, 1.3 g | BrC=1C=C(C=CC1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | 9H-carbazole | 3.3 mmol, 0.55 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium tert-butoxide | 6.6 mmol, 0.63 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.40 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.17 mmol, 95 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 9-[3-(10-phenyl-9-anthryl)phenyl]-9H-carbazole | 1.2 g, yield of 71% | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C=C(C=CC1)N1C2=CC=CC=C2C=2C=CC=CC12 | C38H25N
